US08580816B2
(b) 5-Chloro-2-(4-methoxy-3,5-dimethyl phenyl)oxazolo[5,4-b]pyridine
In a microwaveable vessel, 1.03 g of N-(2,6-dichloropyridin-3-yl)-4-methoxy-3,5-dimethylbenzamide were dissolved in 15 ml of dry tetrahydrofuran, and 30 mg of copper(I) iodide, 57 mg of 1,10-phenanthroline and 1.54 g of cesium carbonate were added. In a microwave sunthesizer, the reaction mixture was then heated at 140° C. for 2 h. For work-up, the mixture was added to 10 ml of a 0.5 M aqueous hydrochloric acid solution. The mixture was extracted twice with ethyl acetate. The collected organic phases were combined and the solvent was removed under reduced pressure. This gave 0.88 g (98%) of the product, which was reacted further without any further purification.

reactant | 1,10-phenanthroline | 57 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 1.54 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 0.5 M | Cl | ClH
reactant | N-(2,6-dichloropyridin-3-yl)-4-methoxy-3,5-dimethylbenzamide | 1.03 g | ClC1=NC(=CC=C1NC(C1=CC(=C(C(=C1)C)OC)C)=O)Cl | C15H14Cl2N2O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 30 mg | [Cu]I
product | 5-Chloro-2-(4-methoxy-3,5-dimethyl phenyl)oxazolo[5,4-b]pyridine | ClC1=CC=C2C(=N1)OC(=N2)C2=CC(=C(C(=C2)C)OC)C | C15H13ClN2O2
